US05015260
2.08 g (11.0 mmol) of 2-methyl-4-methoxy-5-aminophenol was added to 200 ml of pyridine and the mixture was cooled to 0° C. 4.20 g (24.1 mmol, 2.2 eq.) of difluoroacetic anhydride was added to the mixture and the mixture was stirred at room temperature for 30 minutes. The mixture was poured into 200 ml of water and the mixture was extracted with 200 ml of chloroform. The organic layer was washed with a saturated aqueous solution of common salt and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain crystals. The crystals were added to 35 ml of 0.4N aqueous solution of sodium hydroxide and 10 ml of ethanol was added thereto, followed by stirring at room temperature for 15 minutes. The solution was neutralized with acetic acid and the crystals thus precipitated were filtered out. The crystals were recrystallized from the solvent mixture of hexane/ethyl acetate (2:1 by volume) to give 1.30 g (5.6 mmol) of 2-methyl-4-methoxy-5-difluoroacetylaminophenol in the form of colorless crystals. The yield was 52%.

reactant | 2-methyl-4-methoxy-5-aminophenol | 11.0 mmol, 2.08 g | CC1=C(C=C(C(=C1)OC)N)O | C8H11NO2
reactant | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
reactant | difluoroacetic anhydride | 24.1 mmol, 4.20 g, 2.2 eq. | FC(C(=O)OC(C(F)F)=O)F | C4H2F4O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | 2-methyl-4-methoxy-5-difluoroacetylaminophenol | 5.6 mmol, 1.30 g, yield was 52% | CC1=C(C=C(C(=C1)OC)NC(C(F)F)=O)O | C10H11F2NO3
